US08222424B2
3-Ethylamino-propionic acid methyl ester
Methyl acrylate (5.22 g, 60.6 mmol) is dissolved in methanol (20 mL) and cooled to −20° C. Ethylamine (2 M in tetrahydrofuran, 47 mL, 94 mmol) is added via addition funnel and the reaction is allowed to stir at −20° C. for 2 hours. Solvents were then removed in vacuo and the residue is distilled under reduced pressure to afford the title compound as a colorless liquid (2.41 g, 30% yield). 1H NMR (CDCl3) δ 1.11 (t, 3H, J=7.02 Hz), 2.53 (t, 2H, J=6.58 Hz), 2.66 (q, 2H, J=7.02 Hz), 2.89 (t, 2H, J=6.58 Hz), 3.69 (s, 3H).

reactant | Methyl acrylate | 60.6 mmol, 5.22 g | C(C=C)(=O)OC | C4H6O2
reactant | Ethylamine | 94 mmol, 2 M, 47 mL | C(C)N | C2H7N
solvent | methanol | 20 mL | CO | CH4O
product | 3-Ethylamino-propionic acid methyl ester | 2.41 g, 30% yield | COC(CCNCC)=O | C6H13NO2
